US07829560B2
A suspension of methyl 2-chloro-6-morpholin-4-ylpyrimidine-4-carboxylate (0.30 g, 1.16 mmol) in a mixture of THF:H2O:MeOH (12 ml, 4:1:1) is stirred at room temperature for 24 hrs with lithium hydroxide (28 mg, 1.0 eq). The mixture is then evaporated to dryness to give 2-chloro-6-morpholin-4-ylpyrimidine-4-carboxylic acid as a solid (280 mg).

reactant | methyl 2-chloro-6-morpholin-4-ylpyrimidine-4-carboxylate | 1.16 mmol, 0.30 g | ClC1=NC(=CC(=N1)C(=O)OC)N1CCOCC1 | C10H12ClN3O3
reactant | H2O | O | H2O
reactant | MeOH | 12 ml | CO | CH4O
reactant | lithium hydroxide | 28 mg, 1.0 eq | [OH-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
product | 2-chloro-6-morpholin-4-ylpyrimidine-4-carboxylic acid | 280 mg | ClC1=NC(=CC(=N1)C(=O)O)N1CCOCC1 | C9H10ClN3O3
